US04410536
3-butyl-5-nitro-benzothiophene
5.6 g of Cu are heated to 210° C. under N2 for 20 minutes and, after cooling, 110 g of quinoline and 27.9 g of 3-butyl-5-nitro-2-benzothiophenecarboxylic acid are added. The mixture is heated to 180° C., whilst stirring, until the evolution of CO2 has ended. After cooling, the reaction mass is decanted off with CH2Cl2, the quinoline is washed out by shaking with 20% strength HCl and the organic phase is washed, dried and purified on Al2O3. Melting point: 82°-83° C.

reactant | quinoline | 110 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 3-butyl-5-nitro-2-benzothiophenecarboxylic acid | 27.9 g | C(CCC)C1=C(SC2=C1C=C(C=C2)[N+](=O)[O-])C(=O)O | C13H13NO4S
reactant | CO2 | C(=O)=O | CO2
product | 3-butyl-5-nitro-benzothiophene | C(CCC)C1=CSC2=C1C=C(C=C2)[N+](=O)[O-] | C12H13NO2S
